US04921852
To (2S,4R)-2-carbamoyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (3 g) was added N,N-dimethylformamide dimethylacetal (3 ml) and the mixture was stirred at 120° C. for 1 hour. The mixture was poured into a mixture of ethyl acetate and dichloromethane, washed with water and brine successively, and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-2-[N-(N,N-dimethylaminomethylene)carbamoyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine. The compound obtained above was dissolved in acetic acid (30 ml) and to this solution was added hydrazine hydrate (0.36 ml) at room temperature. After stirring at the same temperature for 2 hours, the mixture was poured into water and ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was subjected to a column chromatography on silica gel (90 g) eluting with a mixture of methanol and dichloromethane (1:20 V/V) to give (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(1H-1,2,4-triazol-3-yl)pyrrolidine (1.5 g).

reactant | (2S,4R)-2-carbamoyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 3 g | C(N)(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H17N3O8S
reactant | N,N-dimethylformamide dimethylacetal | 3 ml | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,4R)-4-methanesulfonyloxy-2-[N-(N,N-dimethylaminomethylene)carbamoyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(N=CN(C)C)=O | C17H22N4O8S
